* CL2012 ACDrv2.1
.subckt acdrv2_1 VCC Vsense PWM VREFO VREFI DGND S4 S3 S2 S1 G4 G3 G2 G1
XU1 VREFI S1 P001 DGND N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 VREFI S2 VCC DGND N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 VREFI S3 VCC DGND N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 VREFI S4 VCC DGND N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 G1 N001 200
R2 G2 N002 200
R3 G3 N003 200
R4 G4 N006 200
R5 VREFI DGND 5000k
R7 VCC P001 10
R11 VCC VREFO 70k
S2 DGND PWM N005 DGND SW
XU5 VSense N004 VCC DGND N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 N004 DGND 2.56
D1 DGND VREFO Z1V
R6 VREFO DGND 12.1k
D2 DGND VCC Z10V
.model SW sw(Ron=10m Roff=100Meg Vt=5Vh=-.5)
.model Z1V D(Is=164.04E-18 N=1.0167 Rs=.16158 Ikf=.23257 Cjo=21.570E-12 M=.38366 Vj=.80243 Isr=36.598E-12 Bv=1.02 Ibv=4.9900E-3 tt=173.12E-9 Nbv=0.2 Tbv1=0.0007 Nbvl=0.5 Ibvl=1.0000E-5 Vpk=9.1 mfg=Rohm type=Zener)
.model Z10V D(Is=164.04E-18 N=1.0167 Rs=.16158 Ikf=.23257 Cjo=21.570E-12 M=.38366 Vj=.80243 Isr=36.598E-12 Bv=10.00 Ibv=4.9900E-3 tt=173.12E-9 Nbv=0.2 Tbv1=0.0007 Nbvl=0.5 Ibvl=1.0000E-5 Vpk=9.1 mfg=Rohm type=Zener)
.lib UniversalOpamps2.sub
.ends acdrv2_1

* Single-Pole Double-Throw (SPDT) Analog Switch
.subckt spdtg 1 2 3 4
S1 1 3 4 0 SW
S2 1 2 N001 0 SW
A1 4 0 0 0 0 N001 0 0 BUF
.model SW SW(Ron=1m Roff=1G Vt=0.5 Vh=-0.1)
.ends spdtg

* Single-Pole Single-Throw (SPST) Analog Switch
.subckt spstg 1 2 3
S1 2 1 3 0 SW
.model SW SW(Ron=1m Roff=1G Vt=0.5 Vh=-0.1)
.ends spstg

* Opamp Ideal
.subckt OpampIdeal + - out
E1 out 0 - + 1G
.ends OpampIdeal

* FL7701
.subckt fl7701 CS OUT VCC RT ADIM GND NC HV
R1 CS GND 1Meg
R2 ADIM N001 10Meg
V3 N001 GND 3.5
I1 HV GND .85m
V4 VCC GND 15.5
R3 RT GND 10Meg
R4 NC GND 100Meg
A3 N002 N006 GND GND GND GND OUT GND SRFLOP VHIGH={VCC}
V5 N002 GND PULSE(0 {VCC} 0 0 0 350n {1/fosc})
B2 N004 GND V=if(v(CS2)>v(REF),{VCC},0)
V6 N007 GND PULSE(0 {VCC} {1/fosc/2} 0 0 100n {1/fosc})
A4 GND N004 N007 GND GND GND N005 GND OR VHIGH={VCC}
B3 REF GND V=v(ADIM)*.5/3.5*abs(sin(2*pi*f*time))
B4 CS2 GND V=delay(v(CS),350n)
A5 N003 N005 0 0 0 0 N006 0 AND VHIGH={VCC}
A6 N002 0 0 0 0 N003 0 0 BUF VHIGH={VCC}
.param f=60 fosc=45k vcc=15.5
.ends fl7701

* VCC source conected to ground
.subckt VCC VCC
V1 VCC 0 {V}
.param V=5
.ends VCC

* V+ source conected to ground
.subckt V+ V+
V1 V+ 0 {V}
.param V=15
.ends V+

* V+ source conected to ground
.subckt V- V-
V1 V- 0 {V}
.param V=-15
.ends V-

* 1 NA Relay
.subckt relay A1 A2 NA1 NA2
L1 A1 A2 {L} Rser={RS}
B1 N001 0 V=DELAY(ABS(V(A1,A2))>0.75*VDC,15m)
S1 NA2 NA1 N002 0 SW
A1 N001 N003 0 0 0 0 N002 0 SRFLOP
B2 N003 0 V=DELAY(ABS(V(A1,A2))<0.05*VDC,5m)
.model SW SW(Ron={RON} Roff=100Meg Vt=0.5 Vh=-0.1)
.ends relay

* Fusivel
.subckt Fusivel 1 2
V1 1 2 0
.ends Fusivel

.subckt DIAC T1 T2
* default parameters
.param RS=10 ; series resistance
.param VK=20 ; breakdown voltage
Q1 N002 N001 T2 0 PN
Q2 N001 N002 N005 0 NP
R1 N002 N004 {20K*(VK-1)}
R2 N004 T2 9.5K
R3 N002 N005 9.5K
Q3 N004 N003 N005 0 PN
Q4 N003 N004 T2 0 NP
R4 T1 N005 {RS}
.model PN NPN Cjc=10p Cje=10p
.model NP PNP Cjc=10p Cje=10p
.ends DIAC
